US08466186B2
(e) 4-Chloro-N-methyl-2-nitro-5-(3-(trifluoromethyl)piperidin-1-yl)aniline
3-(Trifluoromethyl)piperidine (0.69 g, 4.5 mmol) followed by potassium carbonate (1.25 g, 9.1 mmol) were added to 4,5-dichloro-N-methyl-2-nitroaniline (1.00 g, 4.5 mmol) in DMF (15 mL). The reaction mixture was stirred 5 h at 80° C. and overnight at 70° C. After addition of further 1.5 eq of potassium carbonate the mixture was stirred 2 h at rt and 2 days at 100° C. The reaction mixture was filtered through a pad of ALOX B and concentrated. The crude was purified by chromatography to give the sub-title compound.

reactant | 3-(Trifluoromethyl)piperidine | 4.5 mmol, 0.69 g | FC(C1CNCCC1)(F)F | C6H10F3N
reactant | potassium carbonate | 9.1 mmol, 1.25 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4,5-dichloro-N-methyl-2-nitroaniline | 4.5 mmol, 1.00 g | ClC1=CC(=C(NC)C=C1Cl)[N+](=O)[O-] | C7H6Cl2N2O2
reactant | potassium carbonate | 1.5 eq | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 4-Chloro-N-methyl-2-nitro-5-(3-(trifluoromethyl)piperidin-1-yl)aniline | ClC1=CC(=C(NC)C=C1N1CC(CCC1)C(F)(F)F)[N+](=O)[O-] | C13H15ClF3N3O2
